US07723092B2
(2) Analysis of Enzyme Activity (Analysis of GalNAc Transfer Activity)
The enzyme of the present invention (2 μg), hexasaccharide of shark cartilage chondroitin sulfate C, purified by degrading with testicular hyaluronidase, as the acceptor (70 pmol) and UDP-GalNAc (3 nmol), UDP-GlcUA (3 nmol) and UDP-[3H]GalNAc (0.1 nmol, 0.1 μCi) as the donors were added to 50 mM Tris-HCl (pH 7.2) containing 20 mM MnCl2, 0.1 M (NH4)2SO4 and 1 M ethylene glycol, and the total volume was adjusted to 50 μl, and then the reaction was carried out at 30° C. for 30 minutes and the enzyme was heat-inactivated. To the reaction solution, 3 volumes of 95% ethanol containing 1.3% potassium acetate was added, and the sample was centrifuged at 10,000×g for 20 minutes. The precipitate was dissolved in 50 μl of distilled water and applied to a Superdex Peptide column (300×φ10 mm: Amersham Biosciences, chromatography conditions; buffer: 0.2 M NaCl, flow rate: 0.5 ml/min), and the eluate was fractionated at 0.5 ml and the radioactivity (count of [3H]) of each fraction was measured using a scintillation counter. Chondroitin synthesizing activity was determined by calculating the amount of radioactivity incorporated into fractions of higher molecular weight than the acceptor substrate. The results are shown in FIG. 3. In FIG. 3, the closed squares indicate radioactivity when hexasaccharide of chondroitin sulfate C was used as the acceptor, open triangles indicate radioactivity when the enzyme reaction product was treated with chondroitinase ABC and closed circles indicates control (wherein heat-inactivated enzyme of the present invention was used).

reactant | UDP-GalNAc | 3 nmol | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
reactant | UDP-GlcUA | 3 nmol | C1=CN(C(=O)NC1=O)C2C(C(C(O2)COP(=O)(O)OP(=O)(O)OC3C(C(C(C(O3)C(=O)O)O)O)O)O)O | C15H22N2O18P2
reactant | Tris-HCl | 50 mM, pH 7.2 | C(C(CO)(CO)N)O.Cl
reactant | NaCl | 0.2 M | [Na+].[Cl-]
reactant | chondroitin sulfate C | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@H]1O)OS(=O)(=O)O)O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C13H21NO15S
solvent | water | 50 μl | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethylene glycol | 1 M | C(CO)O | C2H6O2
product | GalNAc | OC1[C@@H]([C@@H](O)[C@@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
